US06046232
Synthesis of α-(4Benzyloxyphenyl)-N-cyclopentylnitrone
A mixture of 4-benzyloxybenzaldehyde (20 g, 94.23 mmol), N-cyclopentylhydroxylamine (14.3 g, 141.34 mmol), molecular sieves (60 g, 4A) and silica gel (15 g) in chloroform (300 mL) was stirred at room temperature under argon atmosphere for 48 hrs and then was refluxed for an additional 3 hrs. The mixture was filtered and rotary evaporated to give crystals which were recrystallized from hexanes and EtOAc to provide the title compound as white crystals, 23.7 g, 85.1 % yield), m.p. 115.1 ° C. (Rf =0.35 on a silica gel plate using hexanes:EtOAc, 1:1, v:v, as an eluant).

reactant | 4-benzyloxybenzaldehyde | 94.23 mmol, 20 g | C(C1=CC=CC=C1)OC1=CC=C(C=O)C=C1 | C14H12O2
reactant | N-cyclopentylhydroxylamine | 141.34 mmol, 14.3 g | C1(CCCC1)NO | C5H11NO
solvent | chloroform | 300 mL | C(Cl)(Cl)Cl | CHCl3
product | α-(4Benzyloxyphenyl)-N-cyclopentylnitrone | 85.1 % yield | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=[N+]([O-])C1CCCC1 | C19H21NO2
